US07989633B2
1-(4-Methoxyphenyl)-2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]butane-1,3-dione
250 mg (1.32 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 281 mg (1.46 mmol) of 1-(4-methoxyphenyl)butane-1,3-dione, 100 mg (1.66 mmol) of acetic acid and 11 mg (0.13 mmol) of piperidine in 5 ml of dichloromethane and, after addition of molecular sieves, heated under reflux under argon for 4 h. The solvent is removed after filtration in vacuo. 480 mg (99% of theory) of the title compound are obtained and are employed without further purification in the next stage.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 1.32 mmol, 250 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | 1-(4-methoxyphenyl)butane-1,3-dione | 1.46 mmol, 281 mg | COC1=CC=C(C=C1)C(CC(C)=O)=O | C11H12O3
reactant | acetic acid | 1.66 mmol, 100 mg | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.13 mmol, 11 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(4-Methoxyphenyl)-2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]butane-1,3-dione | COC1=CC=C(C=C1)C(C(C(C)=O)=CC=1C=CC=C2C(C=C(OC12)C)=O)=O | C22H18O5
